US06380218B1
5-({[2-(4-Fluoro-phenoxy)-pyridine-3-carbonyl]-amino}-methyl)-1H-indole-2-carboxylic acid
A solution of 5-({[2-(4-Fluoro-phenoxy)-pyridine-3-carbonyl]-amino}-methyl)-1H-indole-2-carboxylic acid ethyl ester (0.043 grams, 0.099 mmole) in 1N sodium hydroxide (0.25 ml, 0.25 mmole) and ethanol (5 ml) was refluxed for 9 hours. The mixture was concentrated under reduced pressure to dryness and dissolved in water (2 ml). The mixture was acidified with 2 N hydrochloric acid giving a white solid which was isolated by filtration (0.032 g). M.P. 236-238; Anal. Calcd. for C22H16N3O4F: C, 65.18; H, 3.98; N, 10.37. Found: C, 65.12; H, 4.08; N, 10.20.

reactant | 5-({[2-(4-Fluoro-phenoxy)-pyridine-3-carbonyl]-amino}-methyl)-1H-indole-2-carboxylic acid ethyl ester | 0.099 mmole, 0.043 grams | C(C)OC(=O)C=1NC2=CC=C(C=C2C1)CNC(=O)C=1C(=NC=CC1)OC1=CC=C(C=C1)F | C24H20FN3O4
reactant | sodium hydroxide | 0.25 mmole, 1N, 0.25 ml | [OH-].[Na+]
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 5-({[2-(4-Fluoro-phenoxy)-pyridine-3-carbonyl]-amino}-methyl)-1H-indole-2-carboxylic acid | FC1=CC=C(OC2=NC=CC=C2C(=O)NCC=2C=C3C=C(NC3=CC2)C(=O)O)C=C1 | C22H16FN3O4
